US09029386B2
To a solution of 1-(5-methylpyridin-3-yl)ethanone (135 mg, 1 mmol) and N-[(1S)-1-(3-aminophenyl)ethyl]-6-chloropyrazin-2-amine (248 mg, 1 mmol) in 1,2-dichloroethane (5 mL) was added sodium triacetoxyborohydride (300 mg, 1.4 mmol), in one portion, and glacial acetic acid (0.18 mL, 3 mmol). The mixture was heated in the microwave reactor at 80° C. for 1 hour. After this time the mixture was stirred with dilute aqueous hydrochloric acid (2M, 7 mL) for 15 minutes and the two phases were separated. The aqueous phase was basified to pH 9 with solid potassium hydroxide and was extracted with dichloromethane (2×20 mL). The extracts were washed with brine (20 mL), dried (MgSO4) and concentrated under reduced pressure to give an orange oil which was purified by flash chromatography (silica, ethyl acetate/methanol) to give 6-chloro-N-[(1S)-1-(3-{[1-(3-methylphenyl)ethyl]amino}phenyl)ethyl]pyrazin-2-amine (52 mg, 14%) as a pale yellow oil.

reactant | 1-(5-methylpyridin-3-yl)ethanone | 1 mmol, 135 mg | CC=1C=C(C=NC1)C(C)=O | C8H9NO
reactant | N-[(1S)-1-(3-aminophenyl)ethyl]-6-chloropyrazin-2-amine | 1 mmol, 248 mg | NC=1C=C(C=CC1)[C@H](C)NC1=NC(=CN=C1)Cl | C12H13ClN4
reactant | sodium triacetoxyborohydride | 1.4 mmol, 300 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 3 mmol, 0.18 mL | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 2M, 7 mL | Cl | ClH
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | 6-chloro-N-[(1S)-1-(3-{[1-(3-methylphenyl)ethyl]amino}phenyl)ethyl]pyrazin-2-amine | 52 mg, 14% | ClC1=CN=CC(=N1)N[C@@H](C)C1=CC(=CC=C1)NC(C)C1=CC(=CC=C1)C | C21H23ClN4
